US08957062B2
Step B: 2-(4-(2-((1S,2R)-2-(1-(3-isopropyl-1,2,4-oxadiazol-5-yl)piperidin-4-yl)cyclopropyl)ethoxy)phenyl)acetic acid
Methyl 2-(4-(2-((1S,2R)-2-(1-(3-isopropyl-1,2,4-oxadiazol-5-yl)piperidin-4-yl)cyclopropyl)ethoxy)phenyl)acetate (0.55 g, 1.28 mmol) was dissolved in MeOH (5 ml) and lithium hydroxide (154 mg, 6.43 mmol) in 2 mL of water was added. The mixture was stirred at RT for 1 h and neutralized to pH 6 with 5 N HCl, extracted with EtOAc (50 ml). The EtOAc phase was dried over MgSO4, and evaporated to afford 514 mg (97%) of the desired product. LC/MS (m/z): 414 (M+H)+.

reactant | Methyl 2-(4-(2-((1S,2R)-2-(1-(3-isopropyl-1,2,4-oxadiazol-5-yl)piperidin-4-yl)cyclopropyl)ethoxy)phenyl)acetate | 1.28 mmol, 0.55 g | C(C)(C)C1=NOC(=N1)N1CCC(CC1)[C@@H]1[C@@H](C1)CCOC1=CC=C(C=C1)CC(=O)OC | C24H33N3O4
reactant | lithium hydroxide | 6.43 mmol, 154 mg | [OH-].[Li+]
reactant | HCl | 5 N | Cl | ClH
solvent | MeOH | 5 ml | CO | CH4O
solvent | water | 2 mL | O | H2O
product | 2-(4-(2-((1S,2R)-2-(1-(3-isopropyl-1,2,4-oxadiazol-5-yl)piperidin-4-yl)cyclopropyl)ethoxy)phenyl)acetic acid | 514 mg, 97% | C(C)(C)C1=NOC(=N1)N1CCC(CC1)[C@@H]1[C@@H](C1)CCOC1=CC=C(C=C1)CC(=O)O | C23H31N3O4
